US04877895
A mixture of 4.18 g (47 mmol) of β-alanine, of 1,88 g (47 mmol) of sodium hydroxide in 20 cm3 of water and of 15 g (47 mmol) of N-(4-cyanophenyl)-S-methylisothiourea hydroiodide in 100 cm3 of 95% ethanol is heated to reflux for 5 hours. The precipitate formed is filtered, then dissolved in 150 cm3 of 1N aqueous sodium hydroxide solution. The solution obtained is washed with ethyl acetate (3×50 cm3), then neutralized to pH 7 by a concentrated HCl solution. The precipitate obtained is filtered, washed with hot absolute ethanol, then recrystallized in water. 7 g (yield 65%) of N-[4-cyanophenylamino(imino)methyl]-3-aminopropanoic acid, having a melting point of 233°-235° C., are obtained.

reactant | β-alanine | 47 mmol, 4.18 g | NCCC(=O)O | C3H7NO2
reactant | sodium hydroxide | 47 mmol, 1,88 g | [OH-].[Na+]
reactant | N-(4-cyanophenyl)-S-methylisothiourea hydroiodide | 47 mmol, 15 g | I.C(#N)C1=CC=C(C=C1)NC(SC)=N
solvent | water | 20 cm3 | O | H2O
solvent | ethanol | 100 cm3 | C(C)O | C2H6O
product | N-[4-cyanophenylamino(imino)methyl]-3-aminopropanoic acid | 7 g, yield 65% | C(#N)C1=CC=C(C=C1)NC(NCCC(=O)O)=N | C11H12N4O2
